US07728030B2
(S)-tert-butyl 1-(3-ethylphenyl)-1-oxopropan-2-ylcarbamate (22c)
The subtitle compound was prepared analogous to the method described in Example 19 (step 19d). Starting from (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (0.7 g, 3.01 mmol) and freshly made (3-ethylphenyl)magnesium bromide 0.9M solution in THF (5 mL, 4.50 mmol). Yield 817 mg (97%)

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 3.01 mmol, 0.7 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | (3-ethylphenyl)magnesium bromide | 0.9M | C(C)C=1C=C(C=CC1)[Mg]Br
reactant | THF | 4.50 mmol, 5 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(3-ethylphenyl)-1-oxopropan-2-ylcarbamate | C(C)C=1C=C(C=CC1)C([C@H](C)NC(OC(C)(C)C)=O)=O | C16H23NO3
